Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.4837095147
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3],4.9776572586
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][H:5].[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.45841748042
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[H:1],5.958802779219999
[O:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][H:4],4.47346251812
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])[H:11]>>[C:2]([H:3])=[C:4]([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:1],5.36169300473
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],8.70367474538
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],-3.86126981057
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9],1.7016176467200002
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([C:3]([H:4])[C:5]#[C:6])[C:7]([H:8])([H:9])[H:10],-3.72956914728
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],4.55460172811
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3]=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:4],4.77663675827
[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],0.23151719051
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.16070029367
[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.45479807068
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9],1.7416060779599998
[H:14].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.57935929442
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],1.25547250313
[H:1][C:2]1[O:3][C:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[O:11]1>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10])=[O:11],-1.8436403493
[O:1]=[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.1534065529700002
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([C:7]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4],1.92079811062
[C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.772919367
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C@:9]1([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-0.658000785011
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:9][C:10]([H:11])[H:12].[H:8],4.54997871141
[H:11].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-4.201589353419998
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1],3.82599499649
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],7.397723769330001
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]#[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],2.38986406187
